US05032576
The dried resin peptide (1 g) was premixed with dimethylsulfide, p-thiocresol, and p-cresol; liquid HF at -78° C. was then added to give approximately a final volume of 10 mL (65:2.5:7.5:25 by volume). The mixture was equilibrated to 0° C. by stirring in an ice bath. After 2 hr, the HF and dimethyl sulfide were removed in vacuo. The high HF treatment was initiated by recharging the reaction vessel at -78° C. with about 14 mL of fresh HF to give a total volume of 15 mL HF-p-cresol-p-thiocresol. The reaction was carried out at 0° for 1 hr. After evaporation of HF at 0° C. and washing with cold ether, the crude reaction mixture was extracted with 10% aqueous acetic acid. The mixture was then lyophilized to dryness.

reactant | dimethylsulfide | CSC | C2H6S
reactant | p-thiocresol | CC1=CC=C(C=C1)S | C7H8S
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
product | p-cresol p-thiocresol | C1=CC(=CC=C1O)C.CC1=CC=C(C=C1)S | InChI=1S/C7H8O.C7H8S/c2*1-6-2-4-7(8)5-3-6/h2*2-5,8H,1H3
